US09233956B2
Step A: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-methylbenzenesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 3-(5-(2-chloropyrimidin-4-yl)-2-isopropylthiazol-4-yl)-2-fluoroaniline (350 mg, 1.003 mmol) and 2-methylbenzenesulfonyl chloride (0.145 mL, 1.00 mmol) the title compound of Step A was obtained as a yellow solid (140 mg, 28% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.37 (s, 1H), 8.35-8.65 (m, 1H), 7.70 (d, J=7.8 Hz, 1H), 7.11-7.50 (m, 6H), 6.73 (d, J=5.2 Hz, 1H), 3.35-3.41 (m, 1H), 2.54 (s, 3H), 1.34 (d, J=6.9 Hz, 6H).

reactant | 3-(5-(2-chloropyrimidin-4-yl)-2-isopropylthiazol-4-yl)-2-fluoroaniline | 1.003 mmol, 350 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(N)C=CC1)F | C16H14ClFN4S
reactant | 2-methylbenzenesulfonyl chloride | 1.00 mmol, 0.145 mL | CC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-methylbenzenesulfonamide | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1)C)F | C23H20ClFN4O2S2
